US07960376B2
To a solution of N-(2-oxo-2-phenylethyl)-4-(4-(trifluoromethyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine-6-carboxamide (20 mg, 38 μmol) in DMF (1 mL) was added ammonium acetate (30 mg, 380 μmol). The reaction mixture was subjected to microwave irradiation (150° C., 15 min). LCMS analysis of the reaction mixture indicated nearly complete conversion of the starting material. The reaction mixture diluted with saturated aqueous sodium bicarbonate (1 mL) and EtOAc (2 mL). The organic layer was removed and the aqueous layer extracted with EtOAc (2 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The resulting residue was purified by flash column chromatography using a gradient elution of hexanes with 10-60% EtOAc to provide 6-(5-phenyl-1H-imidazol-2-yl)-4-(4-(trifluoro-methyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine (1.2 mg, 2.4 μmol, 6% yield) as a yellow oil. LCMS (+ESI) m/z=502.5 [M+H]+; 1H-NMR (CDCl3) δ 8.10 (m, 2H), 7.90 (d, 2H), 7.80 (d, 2H), 7.4-7.5 (m, 4H), 7.25 (d, 1H), 7.00 (dd, 1H), 6.76 (d, 1H), 3.53 (t, 2H), 3.08 (t, 2H).

reactant | N-(2-oxo-2-phenylethyl)-4-(4-(trifluoromethyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine-6-carboxamide | 38 μmol, 20 mg | O=C(CNC(=O)C1=CC2=C(SCCN2S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1)C1=CC=CC=C1 | C24H19F3N2O4S2
reactant | ammonium acetate | 380 μmol, 30 mg | C(C)(=O)[O-].[NH4+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 6-(5-phenyl-1H-imidazol-2-yl)-4-(4-(trifluoro-methyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine | 2.4 μmol, 1.2 mg, 6% yield | C1(=CC=CC=C1)C1=CN=C(N1)C1=CC2=C(SCCN2S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C24H18F3N3O2S2
